US07566723B2
2-Cyanoethyl 4-(4-cyanophenyl)-6-methyl-2-thioxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate
Under argon, trimethylsilyl polyphosphate (10.6 g) is dissolved in 75.7 ml absolute dioxane. To this solution are added 4-cyanobenzaldehyde (5.95 g, 45.4 mmol), 3-trifluoromethylphenyl thiourea (5 g, 22.7 mmol) and 2-cyanoethyl acetoacetate (6.4 g, 45.4 mmol). The reaction mixture is stirred at 80° C. for 3 hours. After evaporation of the dioxane solvent, the residue is dissolved in ethyl acetate and washed with saturated aqueous sodium bicarbonate solution, 38% sodium bisulfite solution and saturated sodium chloride solution. After drying with magnesium sulfate and evaporating off the solvent, the residue is dissolved in 15 ml methanol and purified by preparative HPLC (column: Kromasil 100 C 185 μm, 30 mm×150 mm; precolumn: Gromsil ODS 4 HE 15 μm, 10 mm×20 mm; flow rate: 66 ml/min; solvent A: acetonitrile, solvent B: water; gradient: 0 min 10% A, 3 min 10% A, 11 min 90% A, 13 min 90% A, 13.2 min 10% A, 15 min 10% A; wavelength: 220 nm; injection volume: approx. 2000 μl; number of injections: 12). The product containing fractions are combined and concentrated in vacuo.

reactant | trimethylsilyl polyphosphate | 10.6 g | C[Si](C)(C)OP(=O)=O | C3H9O3PSi
reactant | 4-cyanobenzaldehyde | 45.4 mmol, 5.95 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 3-trifluoromethylphenyl thiourea | 22.7 mmol, 5 g | FC(C=1C=C(C=CC1)NC(=S)N)(F)F | C8H7F3N2S
reactant | 2-cyanoethyl acetoacetate | 45.4 mmol, 6.4 g | C(CC(=O)C)(=O)OCCC#N | C7H9NO3
solvent | dioxane | 75.7 ml | O1CCOCC1 | C4H8O2
product | 2-Cyanoethyl 4-(4-cyanophenyl)-6-methyl-2-thioxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate | C(#N)C1=CC=C(C=C1)C1NC(N(C(=C1C(=O)OCCC#N)C)C1=CC(=CC=C1)C(F)(F)F)=S | C23H17F3N4O2S
